US05472949
5'-Deoxy-5-fluorocytidine (2.5 g) was dissolved in dry pyridine (20 ml). To the mixture, trimethylsilyl chloride (3.4 ml) was added dropwise at 0° C., and stirred for 30 min at room temperature. To the reaction mixture, cyclohexyl chloroformate (2.0 ml) was added in one portion at 0° C. After stirring of the mixture for 1 hour at room temperature, pyridine was evaporated under reduced pressure. The residue was then partitioned between saturated aqueous NaHCO3 and ether. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. To the residue were added citric acid (2.0 g) and methanol (50 ml). The mixture was stirred at room temperature overnight. After removal of the solvent under reduced pressure, the residue was dissolved in CH2Cl2 /MeOH (95:5) and neutralized by aqueous NaOH. The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography using CH2Cl2 /MeOH (20:1) as an eluent, followed by recrystallization from ethyl acetate to give N4 -(cyclohexyloxycarbonyl)-5'-deoxy-5-fluorocytidine (3.47 g:92% yield):mp. 134°-136° C., FAB-MS m/z 372 (MH+).

reactant | 5'-Deoxy-5-fluorocytidine | 2.5 g | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C9H12FN3O4
reactant | trimethylsilyl chloride | 3.4 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | cyclohexyl chloroformate | 2.0 ml | ClC(=O)OC1CCCCC1 | C7H11ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N4 -(cyclohexyloxycarbonyl)-5'-deoxy-5-fluorocytidine | 3.47 g, 92% yield | C1(CCCCC1)OC(=O)NC1=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C=C1F)=O | C16H22FN3O6
